US07129350B2
Preparation: 4: 2-Bromoacetyltetrahydrofuran
To a 20-liter glass vessel was added methylene chloride (10.0 liters) followed by acetyltetrahydrofuran (838.0 g, 7.34 moles). The solution was then cooled back to −10° C. and triethylamine was added (854.0 g, 8.44 moles). The vessel was purged with nitrogen and trimethylsilane triflate (1713.0 g, 7.71 moles) was added dropwise at a maximum temperature of −8° C. Addition was typically complete in 45 minutes. After 15 minutes stirring, a sample was removed for TLC and GC analysis, which showed that the reaction was completed. N-bromosuccinimide (1340 g. 7.53 moles) was added to the solution at a maximum temperature of −5° C. over a period of approximately 45 minutes in six portions. After a 30 minute stirring, the solution was sampled for GC and TLC analysis, which showed that the reaction was completed. The solution was then transferred to a 50-liter separating vessel, and 5% sodium bicarbonate (5 liters) was added with caution. The solution was stirred and separated. The upper aqueous phase was discarded, and the methylene chloride phase was washed with water, dried over sodium sulphate, filtered and stored in a freezer before use in the next step.

reactant | methylene chloride | 10.0 liters | C(Cl)Cl | CH2Cl2
reactant | acetyltetrahydrofuran | 7.34 moles, 838.0 g | C(C)(=O)C1OCCC1 | C6H10O2
reactant | trimethylsilane triflate | 7.71 moles, 1713.0 g | OS(=O)(=O)C(F)(F)F.C[SiH](C)C
reactant | N-bromosuccinimide | 7.53 moles, 1340 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Bromoacetyltetrahydrofuran | BrCC(=O)C1OCCC1 | C6H9BrO2
